US05693827
1-Methylethyl 2-chloro-5-[[(3-methyl-2-furanyl)carbonyl]amino]benzoate (Compound 17)
A solution of 3-methyl-2-furancarbonyl chloride (9.5 g, 0.066 mole) in toluene (20 ml) was added to 1-methylethyl 5-amino-2-chlorobenzoate (14 g, 0.066 mole) and triethylamine (10 g) in toluene (20 ml). After about three hours at ambient temperature, the mixture was washed with dilute hydrochloric acid, water, aqueous 5% sodium bicarbonate and finally water. With cooling, the product (m.p. 99°-100° C., 10 g, 47% yield) was crystallized from toluene.

reactant | 3-methyl-2-furancarbonyl chloride | 0.066 mole, 9.5 g | CC1=C(OC=C1)C(=O)Cl | C6H5ClO2
reactant | 1-methylethyl 5-amino-2-chlorobenzoate | 0.066 mole, 14 g | NC=1C=CC(=C(C(=O)OC(C)C)C1)Cl | C10H12ClNO2
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Methylethyl 2-chloro-5-[[(3-methyl-2-furanyl)carbonyl]amino]benzoate | 10 g, 47% yield | ClC1=C(C(=O)OC(C)C)C=C(C=C1)NC(=O)C=1OC=CC1C | C16H16ClNO4
